US04568687
3-Amino-N-[3-(1H-imidazol-1-yl)propyl]benzamide
A mixture of 2.35 g. of N-[3-(1H-imidazol-1-yl)propyl]-3-nitrobenzamide, 0.5 g. of 10% palladium on carbon catalyst and 150 ml. of ethanol was shaken under 45 lbs. of hydrogen in a Parr hydrogenator until the reaction was complete. The catalyst was removed by filtration and the mother liquor concentrated. The crystalline residue was washed onto a filter with ether, giving the desired product, m.p. 88°-90° C.

reactant | N-[3-(1H-imidazol-1-yl)propyl]-3-nitrobenzamide | N1(C=NC=C1)CCCNC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C13H14N4O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 3-Amino-N-[3-(1H-imidazol-1-yl)propyl]benzamide | NC=1C=C(C(=O)NCCCN2C=NC=C2)C=CC1 | C13H16N4O
